US04185115
Preparation of 3-[p-(Benzyloxy)phenyl]propanol O-Methanesulfonate
To a solution of 11.0 g. of 3-[p-(benzyloxy)phenyl]propanol and 10.4 ml. of triethylamine in 175 ml. of dichloromethane chilled to -10° C. is added dropwise, over 10 minutes, a solution of 3.89 ml. of methanesulfonyl chloride in 10 ml. of dichloromethane. The solution is stirred at -10° C. for 30 minutes, washed with 150 ml. of cold water, 75 ml. of cold 10% HCl, 75 ml. of cold saturated sodium bicarbonate, 75 ml. of cold saturated sodium chloride solution and dried over magnesium sulfate. The solvent is removed in vacuo to give off-white crystals, m.p. 65°-69° C.

reactant | 3-[p-(benzyloxy)phenyl]propanol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCO | C16H18O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[p-(Benzyloxy)phenyl]propanol O-Methanesulfonate | CS(=O)(=O)OCCCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C17H20O4S
